US07994205B2
Ethyl 1-(4-nitrophenyl)-2-[(4-nitrophenyl)thio]-1H-imidazole-4-carboxylate
Ethyl 2-mercapto-1H-imidazole-4-carboxylate (1.00 g), 1-fluoro-4-nitrobenzene (2.05 g) and anhydrous potassium carbonate (4.00 g) were mixed in N,N-dimethylformamide (30 mL), and the mixture was stirred at 100° C. for 4 hr. The reaction mixture was cooled, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Diisopropyl ether was added to the residue and the resulting crystals were collected by filtration to give the title compound as pale-yellow crystals (yield 2.06 g, 86%). 1H-NMR (CDCl3) δ: 1.43 (3H, t, J=7.2 Hz), 4.46 (2H, q, J=7.2 Hz), 7.21-7.26 (2H, m), 7.46-7.51 (2H, m), 8.01 (1H, s) 8.07-8.11 (2H, m), 8.31-8.36 (2H, m).

reactant | Ethyl 2-mercapto-1H-imidazole-4-carboxylate | 1.00 g | SC=1NC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | 1-fluoro-4-nitrobenzene | 2.05 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 4.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | Ethyl 1-(4-nitrophenyl)-2-[(4-nitrophenyl)thio]-1H-imidazole-4-carboxylate | yield 2.06 g, 86% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OCC)SC1=CC=C(C=C1)[N+](=O)[O-] | C18H14N4O6S
